US05428037
To a solution of 2-(4-methylphenyl)-6-methylpyridine-N-oxide (2.8 g) in 1.0 ml of chloroform was added simultaneously phosphorus oxychloride (1.48 ml) in 10 ml of chloroform and triethylamine (2.22 ml) in 10 ml of chloroform, over a period of 15 minutes. An exothermic reaction took place initially, and then the mixture was refluxed for a further 30 minutes. The mixture was then cooled, washed with ice-water, the solvent evaporated under reduced pressure, and the residue flash-chromatographed on silica gel, eluting with 33% methylene chloride in heptane, to yield 1 g of 2-(4- methylphenyl)-6-chloromethylpyridine, m.p. 94° C.

reactant | 2-(4-methylphenyl)-6-methylpyridine-N-oxide | 2.8 g | CC1=CC=C(C=C1)C1=[N+](C(=CC=C1)C)[O-] | C13H13NO
reactant | phosphorus oxychloride | 1.48 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 1.0 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 2.22 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4- methylphenyl)-6-chloromethylpyridine | 1 g | CC1=CC=C(C=C1)C1=NC(=CC=C1)CCl | C13H12ClN
